US06451821B1
A suspension of 34 g of diethyl 2-(acetylamino)-2-(3-nitrobenzyl)malonate in 510 cm3 of concentrated hydrochloric acid is heated at a temperature in the region of 100° C. for 18 hours: a vigorous evolution of gas takes place and the suspension dissolves when hot. The reaction mixture is then cooled to a temperature in the region of 0° C., after which it is stirred for 1 hour at 0° C. and finally filtered through a sinter funnel. The filter cake is washed with twice 50 cm3 of filtrate and dried in a fume cupboard and then in an oven under vacuum (10 Pa) at a temperature in the region of 60° C. 23.4 g of 3-nitrophenylalanine hydrochloride are obtained in the form of white crystals melting at 222° C.

reactant | diethyl 2-(acetylamino)-2-(3-nitrobenzyl)malonate | 34 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC1=CC(=CC=C1)[N+](=O)[O-] | C16H20N2O7
reactant | hydrochloric acid | 510 cm3 | Cl | ClH
product | 3-nitrophenylalanine hydrochloride | 23.4 g | Cl.[N+](=O)([O-])C=1C=C(C[C@H](N)C(=O)O)C=CC1 | InChI=1S/C9H10N2O4.ClH/c10-8(9(12)13)5-6-2-1-3-7(4-6)11(14)15;/h1-4,8H,5,10H2,(H,12,13);1H/t8-;/m0./s1
